US06337331B1
To a stirred suspension of potassium carbonate (19.5 g, 141 mmol) in dry dimethylsulfoxide (100 ml) under nitrogen was added 2-fluorophenylacetonitrile (5.9 ml, 46 mmol). The reaction was stirred for 5 minutes at which time azidomethyl phenyl sulfide (5 ml, 35.3 mmol) was added dropwise. The resulting yellow reaction mixture was stirred at room temperature for 16 hours before slow addition to distilled water (2000 ml) with vigorous stirring. The aqueous mixture was extracted with ethyl acetate (4×500 ml) and the combined organic extracts were washed with brine (500 ml), dried (Na2SO4) and the solvent removed in vacuo. The resultant brown oil was purified by flash chromatography (25% EtOAc/isohexane) and the product crystallised from diethyl ether to furnish 5-(2-fluorophenyl)-3-phenylsulfenylmethyl-3H-1,2,3-triazol-4-ylamine (3.04 g, 29%) as a pale yellow solid. δH (400 MHz, CDCl3) 4.10 (2H, br s, NH2), 5.55 (2H, s, PhSCH2), 7.11 (1H, ddd, J=11.5, 8.2 and 1, ArH), 7.22-7.32 (5H, m, ArH), 7.39-7.41 (2 H, m, ArH), 7.89 (1H, td, J=7.5 and 2.0, ArH); m/z (ES+) 301 (M+H+).

reactant | potassium carbonate | 141 mmol, 19.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluorophenylacetonitrile | 46 mmol, 5.9 ml | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | azidomethyl phenyl sulfide | 35.3 mmol, 5 ml | C1(=CC=CC=C1)SCN=[N+]=[N-] | C7H7N3S
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 5-(2-fluorophenyl)-3-phenylsulfenylmethyl-3H-1,2,3-triazol-4-ylamine | 3.04 g, 29% | FC1=C(C=CC=C1)C1=C(N(N=N1)CSC1=CC=CC=C1)N | C15H13FN4S
